US05484942
A solution of 1.15 cm3 of phenylacetyl chloride in 25 cm3 of dichloromethane is added over 5 minutes to a solution, cooled to 0° C., of 2.63 g of (4aRS,7aRS)-4,4-diphenylperhydrothiopyrano[2,3-c]pyrrole hydrochloride and 2.42 cm3 of triethylamine in 25 cm3 of dichloromethane. After stirring for one hour at 0° C. and one hour at 20° C. 20 cm3 of dichloromethane are added. The reaction mixture is washed twice with 100 cm3 of distilled water, dried over magnesium sulphate and then concentrated to dryness under reduced pressure (2.7 kPa). The oil obtained is chromatographed on a silica gel column (0.04-0.06 mm, diameter 3.5 cm, height 26 cm), eluting under a nitrogen pressure of 0.4 bar with a cyclohexane and ethyl acetate mixture (80/20 by volume) and collecting fractions of 125 cm3. Fractions 19 to 26 are pooled and concentrated to dryness under reduced pressure (2.7 kPa). 0.87 g of (4aRS,7aRS)-6-phenylacetyl-4,4-diphenylperhydrothiopyrano[2,3-c]pyrrole is obtained in the form of a white solid; melting point 210° C.

reactant | phenylacetyl chloride | 1.15 cm3 | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | (4aRS,7aRS)-4,4-diphenylperhydrothiopyrano[2,3-c]pyrrole hydrochloride | 2.63 g | Cl.C1(=CC=CC=C1)C1(CCSC2CNCC21)C2=CC=CC=C2
reactant | triethylamine | 2.42 cm3 | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 25 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 25 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 20 cm3 | ClCCl | CH2Cl2
product | (4aRS,7aRS)-6-phenylacetyl-4,4-diphenylperhydrothiopyrano[2,3-c]pyrrole | 0.87 g | C1(=CC=CC=C1)CC(=O)N1CC2C(C1)C(CCS2)(C2=CC=CC=C2)C2=CC=CC=C2 | C27H27NOS
